* Z:\home\ahmed\wine\ltspice\curvetrace.asc
Q1 N001 N002 0 0 2N2222
V1 N001 0 0.
I1 0 N002 100µ
.model NPN NPN
.model PNP PNP
.lib C:\users\ahmed\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V1 0 15 10m
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
